Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaundice 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male with history of hepatitis B (never treated). He 
presented to ___ with intermittent RUQ pain, scleral icterus, 
and dark urine.  
 He had been seen in his PCP's office, noted to have a 
transaminitis, referred to the ED.  
 He notes he was diagnosed with hepatitis B several years ago. 
He was instructed to start treatment, but never did as he felt 
his infection may just resolve.  
 He has had intermittent RUQ pain for the past few months. This 
is dull, comes and goes, lasting for only a few minutes but 
occurring several times a day every day. There is no 
nausea/vomiting, his appetite has been good. The pain has no 
relation to food.  
 Over the past 3 days he has noticed yellowing of his eyes and 
dark urine.  
 Of note, the patient was in ___ 2 weeks ago. He was there 
for 4 days, and for 3 of those days he drank EtOH ___ drinks 
per day. He ingested marijuana (via brownie) but denies any 
other drugs.  
 At baseline he drinks 2 days per week, ___ drinks per sitting.  

 Initial vitals in the ED: Temp. 97.5 HR 83 BP 130/77 RR 18 SpO2 
99% RA  
 Labs notable for WBC 5.4, Hg 15.6, platelets 206, Na 137, K 
4.1, Cl 105, bicarb 26, BUN 8, Cr 0.8, glucose 96, ALT 2439, AST 
___, T bili 6.8, hepatitis serologies pending, lactate 1.7.  
 Patient was given Tenofovir Disoproxil (Viread) 300mg x1.  
 Hepatology consulted with recommendations to:  
 - Send HBV and HCV viral load  
 - Resend other hepatitis serologies (including Anti-HAV IgM, 
Anti-HAV IgG, anti-HDV, HDV RNA, HDAg)  
 - Send ___, AMSA, ferritin  
 - Immunoglobulins (IgM, IgG, IgA)  
 - Abdominal ultrasound with dopplers  
 - Toxic screen (including Tylenol)  
 - Send LFTs, albumin, coags ___, PTT, INR), CBC with diff, Chem 
7  
 - please start tenofovir 300mg daily  
 - admit to Hepatology, Attending ___.  
 
 ROS: per HPI, denies fever, chills, night sweats, headache, 
vision  
 changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, nausea, vomiting, diarrhea, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
- Hepatitis B 
- Obesity  
- Asthma 
 
Social History:
___
Family History:
FAMILY HISTORY:  
 - No known liver disease in the family.  

 
Physical Exam:
ADMISSION EXAM 
==============
VS: 98.3 132/72 62 18 100% on room air  
 General: Alert and interactive. In no distress.  
 HEENT: PERRL. Sclera icteric. MMM, no oral lesions.  
 Neck: No cervical LAD.  
 CV: RRR. No murmur.  
 Lungs: Clear to auscultation.  
 Abdomen: Soft, nondistended. Mild tenderness to palpation over 
RUQ. No HSM appreciated.  
 GU: No foley.  
 Ext: Warm. No ___ edema.  
 Neuro: AOx3. CN2-12 grossly intact. No focal deficits. Able to 
say months of year forward and backward without difficulty. No 
asterixis.  

DISCHARGE EXAM
============== 
VITALS: 98.2 113/63 76 18 99% RA
General: Alert and interactive. In no distress. Cheery   
HEENT: PERRL. Sclera icteric. MMM, no oral lesions.  
Neck: No cervical LAD.  
CV: RRR. No murmur.  
Lungs: Clear to auscultation. no wheezes, rales, rhonchi  
Abdomen: Soft, nondistended. non tender, negative Murphys sign, 
no HSM appreciated.  
GU: No foley.  
Ext: Warm. No ___ edema.  
Neuro: AOx3. CN2-12 grossly intact. No focal deficits. Able to 
say months of year forward and backward without difficulty. No 
asterixis.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:19PM   WBC-5.4 RBC-5.08 HGB-15.6 HCT-46.9 MCV-92 
MCH-30.7 MCHC-33.3 RDW-16.2* RDWSD-54.7*
___ 03:19PM   NEUTS-49.7 ___ MONOS-13.8* EOS-5.3 
BASOS-1.3* IM ___ AbsNeut-2.70# AbsLymp-1.59 AbsMono-0.75 
AbsEos-0.29 AbsBaso-0.07
___ 03:19PM   PLT COUNT-206
___ 03:19PM   ___ PTT-34.0 ___
___ 03:19PM   HCV Ab-NEGATIVE
___ 03:19PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:19PM   HBsAg-POSITIVE* HBs Ab-NEGATIVE HBc 
Ab-POSITIVE HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 03:19PM   FERRITIN-5790*
___ 03:19PM   ALBUMIN-3.4*
___ 03:19PM   LIPASE-31
___ 03:19PM   ALT(SGPT)-2439* ___ ALK PHOS-112 
TOT BILI-6.8*
___ 03:19PM   GLUCOSE-96 UREA N-8 CREAT-0.8 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-26 ANION GAP-10
___ 03:23PM   LACTATE-1.7

DISCHARGE LABS
==============
___ 05:35AM BLOOD WBC-6.7 RBC-4.92 Hgb-14.9 Hct-45.1 MCV-92 
MCH-30.3 MCHC-33.0 RDW-17.1* RDWSD-56.2* Plt ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-83 UreaN-10 Creat-0.9 Na-136 
K-4.3 Cl-106 HCO3-24 AnGap-10
___ 05:35AM BLOOD ALT-1640* AST-1206* AlkPhos-116 
TotBili-5.3*
___ 05:35AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.0

PERTINENT LABS
==============
___ 03:19PM BLOOD HBsAg-POSITIVE* HBsAb-NEGATIVE 
HBcAb-POSITIVE HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 02:50PM BLOOD AMA-NEGATIVE
___ 05:41AM BLOOD Smooth-POSITIVE *
___ 08:49PM BLOOD ___
___ 05:41AM BLOOD IgG-2677* IgA-393 IgM-186
___ 03:19PM BLOOD HCV Ab-NEGATIVE
___ 03:19PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICRO 
=====
HCV VIRAL LOAD (Pending): 
__________________________________________________________
HBV Viral Load (Final ___: 8,890,000 IU/mL.

STUDIES
======= 
Liver/Gallbladder Ultrasound 
Echogenic liver most compatible with fatty deposition.  Please 
note, more 
advanced forms of liver disease cannot be excluded on the basis 
of this 
appearance. 

 
Brief Hospital Course:
___ y.o. man with a history of obesity, asthma, EtOH abuse, and 
untreated HBV presents from clinic with abdominal pain and 
markedly elevated transaminitis with hepatocellular pattern 
concerning for acute hepatitis. 

ACTIVE ISSUES 
============= 

# Acute hepatitis: He presented with a pattern of LFT elevation 
consistent with acute hepatitis. The highest suspicion was for 
acute on chronic Hepatitis B in setting of not being on 
treatment for known chronic Hepatitis B. Serologies were 
consistent with active Hep B infection (Viral load approximately 
9 million) and negative for Hep A and C. Hepatitis D and E were 
pending at the time of discharge. Remainder of serologies were 
notable for a positive Anti-Smooth Muscle Antibody with titer 
1:20, likely of little clinical significance. He did have mild 
disturbance in synthetic function with elevated INR and received 
3 days of PO Vitamin K. He did not show signs of decompensation 
and does not have known cirrhosis. He was started on Tenofovir 
300mg daily for his acute on chronic Hepatitis B. LFTs 
downtrended. He was consoled on limiting alcohol intake and met 
with the social worker. We also emphasized the need to 
consistently take his Tenofovir as an outpatient. He agreed to 
speak with his doctor first before discontinuing his medication 
again. He will have repeat LFTs and follow up with Dr. ___ as 
an outpatient. 

CHRONIC ISSUES 
==============

# GERD. Continued omeprazole 20mg daily 

# Asthma. Continued albuterol inhaler prn 

TRANSITIONAL ISSUES 
===================
- Labs pending at discharge: hepatitis E IgG, hepatitis D PCR 
and antibody, and HCV viral load.
- Started on tenofovir for untreated hepatitis B
- Counseled on medication adherence and alcohol abstention
- Will have LFTs checked on ___ and faxed to his outpatient 
hepatologist

#CODE: Full Code  
#CONTACT: Patient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
2. Omeprazole 20 mg PO DAILY 
3. Tenofovir Disoproxil (Viread) 300 mg PO DAILY 
RX *tenofovir disoproxil fumarate [Viread] 300 mg one tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*0
4. Outpatient Lab Work
ICD10 code: ___.10: Unspecified viral hepatitis B
Please check LFTs on ___
Fax to Dr. ___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hepatitis due to hepatitis B flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay. You were 
admitted for acute hepatitis likely due to a flare of your 
hepatitis B. Other labs were ordered to ensure you did not have 
another cause of hepatitis; those were negative or were pending 
at discharge. Your liver tests improved during your stay. You 
were started on a medication to control your hepatitis B, called 
Tenofovir (Viread). Please take this daily and abstain from 
alcohol to improve your liver ___. In addition, please get 
your labs checked on ___ of next week to ensure your liver 
tests are downtrending. Please follow up with Dr. ___ 
discharge. We wish you the best!

Your ___ care team
 
Followup Instructions:
___